US09403835B2
Step 2: (6-chloro-5,7-dimethyl-1H,3H-2,4,7a,8-tetraaza-cyclopenta[a]inden-2-yl)-[2-(pyrrolidin-3-ylmethoxy)-phenyl]-methanone formic acid salt
A 4M solution of HCl in 1,4-dioxane (1.5 mL; 5.99 mmol; 10 eq.) was added to a suspension of 3-[2-(6-chloro-5,7-dimethyl-1H,3H-2,4,7a,8-tetraaza-cyclopenta[a]indene-2-carbonyl)-phenoxymethyl]-pyrrolidine-1-carboxylic acid tert-butyl ester (315 mg; 0.6 mmol; 1 eq.) in 1,4-dioxane (10 mL) followed by water (30 μL) and the resulting mixture was stirred at room temperature for 5 hours. After concentration in vacuo, the residue was partitioned between DCM and 1M NaOH and the aqueous layer was extracted with DCM. The combined organic phase was dried over sodium sulfate and concentrated in vacuo. Purification by mass directed preparative HPLC afforded the title compound (51 mg, 18%) as a white solid. HPLC (max plot) 97.4%, Rt 2.74 min. UPLC/MS: (MS+) 426.4 ([M+H]+).

reactant | HCl | Cl | ClH
reactant | 3-[2-(6-chloro-5,7-dimethyl-1H,3H-2,4,7a,8-tetraaza-cyclopenta[a]indene-2-carbonyl)-phenoxymethyl]-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.6 mmol, 315 mg, 1 eq. | C(C)(C)(C)OC(=O)N1CC(CC1)COC1=C(C=CC=C1)C(=O)N1CC=2C(=C3N=C(C(=C(N3N2)C)Cl)C)C1 | C27H32ClN5O4
reactant | water | 30 μL | O | H2O
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 5.99 mmol, 1.5 mL, 10 eq. | O1CCOCC1 | C4H8O2
product | (6-chloro-5,7-dimethyl-1H,3H-2,4,7a,8-tetraaza-cyclopenta[a]inden-2-yl)-[2-(pyrrolidin-3-ylmethoxy)-phenyl]-methanone formic acid salt | 51 mg, 18% | C(=O)O.ClC1=C(N2N=C3C(=C2N=C1C)CN(C3)C(=O)C3=C(C=CC=C3)OCC3CNCC3)C | InChI=1S/C22H24ClN5O2.CH2O2/c1-13-20(23)14(2)28-21(25-13)17-10-27(11-18(17)26-28)22(29)16-5-3-4-6-19(16)30-12-15-7-8-24-9-15;2-1-3/h3-6,15,24H,7-12H2,1-2H3;1H,(H,2,3)
